US06627630B1
Production of 2-[6-[4-[4-(Diphenylmethoxy)piperidino]butylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic Acid
1.56 g of 4-(diphenylmethoxy)-1-piperidinebutanamine and 617 mg of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate were stirred at 185° C. for 3 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 0.52 ml of a 4 N hydrogen chloride solution in ethyl acetate was added, followed by concentration. The residue was dissolved in 4 ml of ethanol; 4 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 4 hours; 1 ml of a 2 N aqueous solution of sodium hydroxide was added, followed by stirring at 50° C. for 16 hours. The mixture was concentrated under reduced pressure. The residue was diluted with water and washed with ethyl acetate; the water layer was adjusted to pH 4.5 by the addition of 4 N hydrochloric acid and extracted with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was powdered by the addition of ethyl acetate, collected by filtration and dried to yield 271 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinebutanamine | 1.56 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCN)C1=CC=CC=C1 | C22H30N2O
reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 617 mg | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-[6-[4-[4-(Diphenylmethoxy)piperidino]butylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic Acid | 271 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C32H39N5O3
